US07622480B2
A. Preparation of 1-cyclopropylmethyl-3-piperidin-4-yl-1H-pyrrolo[2,3-b]pyridine
This compound was prepared following the procedure described in example 24, parts C and D, starting with 0.3 g (1 mmol) of 4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-piperidine-1-carboxylic acid ethyl ester and 0.175 g (1.23 mmol) of bromomethylcyclopropane. After standard work-up, 0.242 g (96% of yield) of the expected product were isolated.

reactant | 4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-piperidine-1-carboxylic acid ethyl ester | 1 mmol, 0.3 g | C(C)OC(=O)N1CCC(CC1)C1=CNC2=NC=CC=C21 | C15H19N3O2
reactant | bromomethylcyclopropane | 1.23 mmol, 0.175 g | BrCC1CC1 | C4H7Br
product | 1-cyclopropylmethyl-3-piperidin-4-yl-1H-pyrrolo[2,3-b]pyridine | C1(CC1)CN1C=C(C=2C1=NC=CC2)C2CCNCC2 | C16H21N3
